US06750364B2
2′,5′-Dioxo-spiro{tricyclo[2.2.1.02,6]heptane-3,4′-imidazoline}-1-carboxylic acid
A mixture of 1.52 g (10 mmole) of 3-oxo-tricyclo[2.2.1.02,6]heptane-1-carboxylic acid, 0.78 g (12 mmole) of potassium cyanide and 3.36 g (35 mmole) of ammonium carbonate in 75 mL of ethanol-water (1:1) was stirred at 75° C. for 18 hours. An additional 2-4 mmole of potassium cyanide and 6-12 mmole of ammonium carbonate were added and stirring at 75° C. was continued for 18 hours. The ethanol was then allowed to evaporate and the reaction mixture adjusted to pH 1 with concentrated HCl. Upon cooling the mixture to 0° C., a white precipitate formed and was removed by filtration and washed with ice-cold water and ethyl acetate and dried in vacuum to give 1.32 g of the title compound. Concentration of the mother liquor led to the isolation of an additional 0.22 g of white solid. Thus, 1.54 g of the title compound were obtained as a mixture of diastereomers.

reactant | 3-oxo-tricyclo[2.2.1.02,6]heptane-1-carboxylic acid | 10 mmole, 1.52 g | O=C1C2C3(C2CC1C3)C(=O)O | C8H8O3
reactant | potassium cyanide | 12 mmole, 0.78 g | [C-]#N.[K+]
reactant | ammonium carbonate | 35 mmole, 3.36 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | potassium cyanide | 2-4 mmole | [C-]#N.[K+]
reactant | ammonium carbonate | 6-12 mmole | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ethanol | C(C)O | C2H6O
solvent | ethanol water | 75 mL | C(C)O.O
product | 2′,5′-Dioxo-spiro{tricyclo[2.2.1.02,6]heptane-3,4′-imidazoline}-1-carboxylic acid | 1.32 g | O=C1NC(C2(N1)C1C3(C1CC2C3)C(=O)O)=O | C10H10N2O4
